**.subckt asyn_rst_gray_counter Clk EN Q0 Q1 Q2 Q4 Q5 Q6 Q7 Q3 RST_bar
*.ipin Clk
*.ipin EN
*.opin Q0
*.opin Q1
*.opin Q2
*.opin Q4
*.opin Q5
*.opin Q6
*.opin Q7
*.opin Q3
*.ipin RST_bar
x14 net8 net7 GND GND VDD VDD Q0 sky130_fd_sc_lp__xor2_1
x15 net8 net1 GND GND VDD VDD net2 sky130_fd_sc_lp__and2_1
x1 net9 net8 GND GND VDD VDD Q1 sky130_fd_sc_lp__xor2_1
x2 net10 net9 GND GND VDD VDD Q2 sky130_fd_sc_lp__xor2_1
x3 net11 net10 GND GND VDD VDD Q3 sky130_fd_sc_lp__xor2_1
x4 net12 net11 GND GND VDD VDD Q4 sky130_fd_sc_lp__xor2_1
x5 net13 net12 GND GND VDD VDD Q5 sky130_fd_sc_lp__xor2_1
x6 Q7 net13 GND GND VDD VDD Q6 sky130_fd_sc_lp__xor2_1
x7 net9 net2 GND GND VDD VDD net3 sky130_fd_sc_lp__and2_1
x8 net11 net4 GND GND VDD VDD net5 sky130_fd_sc_lp__and2_1
x9 net10 net3 GND GND VDD VDD net4 sky130_fd_sc_lp__and2_1
x10 net12 net5 GND GND VDD VDD net6 sky130_fd_sc_lp__and2_1
x11 net13 net6 GND GND VDD VDD net14 sky130_fd_sc_lp__and2_1
x12 net7 EN GND GND VDD VDD net1 sky130_fd_sc_lp__and2_1
X1 EN net7 Clk RST_bar asyn_rst_t_ff
X2 net1 net8 Clk RST_bar asyn_rst_t_ff
X3 net2 net9 Clk RST_bar asyn_rst_t_ff
X4 net3 net10 Clk RST_bar asyn_rst_t_ff
X5 net4 net11 Clk RST_bar asyn_rst_t_ff
X6 net5 net12 Clk RST_bar asyn_rst_t_ff
X7 net6 net13 Clk RST_bar asyn_rst_t_ff
X8 net14 Q7 Clk RST_bar asyn_rst_t_ff
**.ends

* expanding   symbol:  T_flip_flop/asyn_rst_t_ff.sym # of pins=4
* sym_path: /home/sky/Desktop/beng207_project/cochlea_sky130/xschem/T_flip_flop/asyn_rst_t_ff.sym
* sch_path: /home/sky/Desktop/beng207_project/cochlea_sky130/xschem/T_flip_flop/asyn_rst_t_ff.sch
.subckt asyn_rst_t_ff  T Q CLK RST_bar
*.ipin T
*.ipin CLK
*.opin Q
*.ipin RST_bar
x1 CLK net1 RST_bar GND GND VDD VDD Q sky130_fd_sc_lp__dfrtp_1
x3 T Q GND GND VDD VDD net1 sky130_fd_sc_lp__xor2_1
.ends

** flattened .save nodes
.end
